US05716936
A The process is performed as described in Example 1A, but starting with 3 g of (2RS,4SR,5RS)-5-(2-fluorophenyl)-2-isobutylcarbamoyl-1-{2-[3-(3-methoxycarbonylphenyl)ureido]acetyl}-4-(3-methoxyphenyl)sulphonylpyrrolidine and 0.245 g of potassium hydroxide in a mixture of 60 cm3 of methanol and 20 cm3 of distilled water. After treatment, 0.5 g of (2RS,4SR,5RS)-3-(3-{2-[5-(2-fluorophenyl)-2-isobutylcarbamoyl-4-(3-methoxyphenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido!benzoic acid is obtained [Rf=0.4; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 383 K, δ in ppm): 0.95 (d, J=6.5 Hz, 6H: C (CH3)2); 1.86 (mt, 1H: CH); from 2.35 to 2.55 and 2.86 (2 mts, 1H each: CH2 at 3); 3.08 (mt, 2H: NCH2); from 3.60 to 3.80 and 3.90 (mt and d respectively, (J=17 Hz), 1H each: COCH2N); 3.91 (s, 3H: OCH3); 4.09 (mt, 1H: H4); 4.81 (t, J=7 Hz, 1H: H2); 5.72 (very broad s, 1H:H5); from 6.95 to 7.65 (mt, 10H: aromatic H); 8.00 (mt, 1H: aromatic H (H2 : ortho to the COOH)); 8.20 (broad t, J=8 Hz, 1H: H of the aromatic at 5 (H6))].

reactant | (2RS,4SR,5RS)-5-(2-fluorophenyl)-2-isobutylcarbamoyl-1-{2-[3-(3-methoxycarbonylphenyl)ureido]acetyl}-4-(3-methoxyphenyl)sulphonylpyrrolidine | 3 g | FC1=C(C=CC=C1)C1C(CC(N1C(CNC(=O)NC1=CC(=CC=C1)C(=O)OC)=O)C(NCC(C)C)=O)S(=O)(=O)C1=CC(=CC=C1)OC | C33H37FN4O8S
reactant | potassium hydroxide | 0.245 g | [OH-].[K+]
solvent | methanol | 60 cm3 | CO | CH4O
solvent | water | 20 cm3 | O | H2O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
